US08133909B2
(S)-2-Hydroxy-2-phenyl-N-quinolin-6-yl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
In analogy to example 104 quinolin-6-ylamine, 4-(trifluoromethyl)phenylacetonitrile & (+)-O-Acetyl-L-Mandelic Acid were successively coupled then hydrolysed to give after silica gel chromatography the target compound. MS(m/e): 451.1 [M+H]+.

reactant | quinolin-6-ylamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
reactant | 4-(trifluoromethyl)phenylacetonitrile | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | (+)-O-Acetyl-L-Mandelic Acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)-2-Hydroxy-2-phenyl-N-quinolin-6-yl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | O[C@H](C(=O)N(CCC1=CC=C(C=C1)C(F)(F)F)C=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C26H21F3N2O2
